US07838543B2
Step 2. N2-Methyl-N2-(2-pyrrolidin-1-yl-ethyl)-benzooxazole-2,5-diamine
The title compound is prepared according to the procedure outlined in Example 61, Step 3 using methyl(5-nitro-benzooxazol-2-yl)-(2-pyrrolidin-1-yl-ethyl)-amine (160 mg, 0.55 mmol), iron powder (154 mg, 2.75 mmol), and acetic acid (5 mL) to yield 60 mg (42%) of product: mass spectrum (ion-spray): (m/z)=261.2 (M+1).

reactant | methyl(5-nitro-benzooxazol-2-yl)-(2-pyrrolidin-1-yl-ethyl)-amine | 0.55 mmol, 160 mg | CN(CCN1CCCC1)C=1OC2=C(N1)C=C(C=C2)[N+](=O)[O-] | C14H18N4O3
catalyst | iron | 2.75 mmol, 154 mg | [Fe] | Fe
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | N2-Methyl-N2-(2-pyrrolidin-1-yl-ethyl)-benzooxazole-2,5-diamine | CN(C=1OC2=C(N1)C=C(C=C2)N)CCN2CCCC2 | C14H20N4O
